US08232294B2
Step 1) (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-((benzyloxycarbonyl)(methyl)-amino)acetate
To a mixture of (R)—N-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)-phenyl-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (2.0 g, 3.68 mmol), N-Cbz-sarcosine (1.643 g, 7.36 mmol) and DMAP (0.9 g, 7.36 mmol, Aladdin) in 15 mL of CH2Cl2 was added EDC solid (1.06 g, 5.52 mmol, Aladdin) in portions at 0° C. After stirring at 0° C. for 2 hrs, the reaction mixture was warmed up to room temperature, and continued to stir at rt overnight. The mixture was diluted with 100 mL of CH2Cl2 and the resulted solution was washed with 0.1 N HCl (10 mL×2), followed by saturated NaHCO3 solution (20 mL×2) and water (20 mL). The aqueous phase was extracted with EtOAc (50 mL×3), and the combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc/hexane=2/1) to give the desired compound as a pale yellow solid (2.31 g, 84%).

reactant | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)-phenyl-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 3.68 mmol, 2.0 g | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)NC(=O)C=1C(N(N(C1C)CC(C)O)C1=CC=CC=C1)=O | C30H27FN4O5
reactant | N-Cbz-sarcosine | 7.36 mmol, 1.643 g | C(=O)(OCC1=CC=CC=C1)N(C)CC(=O)O | C11H13NO4
reactant | EDC | 5.52 mmol, 1.06 g
catalyst | DMAP | 7.36 mmol, 0.9 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-((benzyloxycarbonyl)(methyl)-amino)acetate | 2.31 g, 84% | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C)C | C41H38FN5O8
